US07514567B2
(b) (R)-3′-[4-Bromo-5-(trimethylsilyl)furan-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
The title compound was prepared by a method analogous to that described in Preparation 3 from (S)-spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one and 2,4-dibromo-5-(trimethylsilyl)furan. The title compound (577 mg) was obtained as a pale yellow solid, m/z 399, 401 (MH+).

reactant | (S)-spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | O1C(NC[C@@]12CN1CCC2CC1)=O | C9H14N2O2
reactant | 2,4-dibromo-5-(trimethylsilyl)furan | BrC=1OC(=C(C1)Br)[Si](C)(C)C | C7H10Br2OSi
product | (R)-3′-[4-Bromo-5-(trimethylsilyl)furan-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 577 mg | BrC=1C=C(OC1[Si](C)(C)C)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C16H23BrN2O3Si
